US05087289
Preparation of ethyl 2-(4,6-dimethoxypyrimidin-2-yl)oxy-3-methyl-3-phenylbutyrate (Compound No. 44)
4.5 g of ethyl 2-hydroxy-3-methyl-3-phenylbutyric acid, 4,6 g of 4,6-dimethoxy-2-methylsulfonylpyrimidine, 5,3 g of anhydrous potassium carbonate and 50 ml of N,N-dimethylformamide were introduced to a round bottom flask, and the mixture was stirred at 100° C. for 3 hours. Then, the reaction mixture was poured into ice water and extracted twice with 50 ml of ethyl acetate. The extract was washed with water and then dried over anhydrous sodium sulfate overnight. An inorganic salt was removed by filtration, and then the solvent was distilled off under reduced pressure to obtain 7 g of crude crystals. The crude crystals were recrystallized from ethanol to obtain 5.6 g of the desired product.

reactant | ethyl 2-hydroxy-3-methyl-3-phenylbutyric acid | 4.5 g | C(C)C(C(=O)O)(C(C)(C1=CC=CC=C1)C)O | C13H18O3
reactant | 4,6-dimethoxy-2-methylsulfonylpyrimidine | 4,6 g | COC1=NC(=NC(=C1)OC)S(=O)(=O)C | C7H10N2O4S
reactant | potassium carbonate | 5,3 g | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | ethyl 2-(4,6-dimethoxypyrimidin-2-yl)oxy-3-methyl-3-phenylbutyrate | 5.6 g | COC1=NC(=NC(=C1)OC)OC(C(=O)OCC)C(C)(C1=CC=CC=C1)C | C19H24N2O5
